US06660753B2
Pd(PPh3)4 (5 mg, 0.004 mmol) was added to a solution of hexamethylditin (160 mg, 0.49 mmol) and 5-chloro-2-bromopyridine (76 mg, 0.395 mmol) in toulene (1 mL) under argon. The resulting solution was stirred at 80° C. for 16 h. After cooling to room temperature, a second portion of Pd(PPh3)4 (20 mg, 0.019 mmol) and 3-(5-bromofuran-2-yl)-benzonitrile (79 mg, 0.32 mmol) were added and the resulting solution was stirred at 110° C. for 14 h. After cooling to room temperature, the solvent was removed in vacuo. Chromatography (5g silica gel SPE tube, 25-50% chloroform in hexane to 2% ethyl acetate in 1:1 chloroform:hexane) followed by triturating with hexanes and purification by preparative TLC (90% dichloromethane in hexane) afforded 15.7 mg (17%) of 3-(5-(5-choro-2-pyridyl)-2-furyl)-benzonitrile (97.5% pure by GC/MS, contaminated with 2.5% dimer). 1H-NMR (CDCl3), δ (ppm): 8.55 (d, 1H), 8.03 (s, 1H), 7.94 (dd, 1H), 7.73 (s, 2H), 7.54 (m, 12), 7.16 (d, 1H), 6.88 (d, 1H).

reactant | hexamethylditin | 0.49 mmol, 160 mg | C[Sn](C)C.C[Sn](C)C
reactant | 5-chloro-2-bromopyridine | 0.395 mmol, 76 mg | ClC=1C=CC(=NC1)Br | C5H3BrClN
reactant | 3-(5-bromofuran-2-yl)-benzonitrile | 0.32 mmol, 79 mg | BrC1=CC=C(O1)C=1C=C(C#N)C=CC1 | C11H6BrNO
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.019 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-(5-choro-2-pyridyl)-2-furyl)-benzonitrile | 15.7 mg | ClC=1C=CC(=NC1)C1=CC=C(O1)C=1C=C(C#N)C=CC1 | C16H9ClN2O
